US09216980B2
Step 1: 3-(9-Benzenesulfonyl-3-bromo-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yloxy)pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (200 mg, 0.46 mmol), 3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester (670 mg, 3.56 mmol) and triphenylphosphine (724 mg, 2.76 mmol) in anhydrous DMF (2 mL) was treated dropwise with diethyl azodicarboxylate (0.53 mL, 3.40 mmol) and the mixture stirred at ambient temperature for 3 h then left to stand overnight. The mixture was diluted with ethyl acetate (20 mL) and washed with brine (3×15 mL), dried over magnesium sulfate and concentrated in vacuo. The crude material was purified by flash chromatography (silica, 20 g column, Si-SPE, 0-20% methanol in DCM). Collecting appropriate fractions afforded the title compound (160 mg, 57%). 1H NMR (CDCl3, 400 MHz): 9.57 (s, 1H), 8.76 (d, J=2.3 Hz, 1H), 8.46 (d, J=2.3 Hz, 1H), 8.24-8.23 (m, 1H), 8.23-8.21 (m, 1H), 7.71-7.61 (m, 1H), 7.58-7.45 (m, 2H), 5.88-5.83 (m, 1H), 4.36-4.11 (m, 1H), 3.87-3.36 (m, 2H), 2.48-2.26 (m, 2H), 2.13-2.05 (m, 1H), 1.46 (s, 9H). LCMS (Method B): RT=4.51 min, M+H+=598/600.

reactant | 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.46 mmol, 200 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)Br | C17H9BrN4O3S
reactant | 3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | 3.56 mmol, 670 mg | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | triphenylphosphine | 2.76 mmol, 724 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.40 mmol, 0.53 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(9-Benzenesulfonyl-3-bromo-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yloxy)pyrrolidine-1-carboxylic acid tert-butyl ester | 160 mg, 57% | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(N=CC2=C1C1=C(N2S(=O)(=O)C2=CC=CC=C2)N=CC(=C1)Br)C#N | C26H24BrN5O5S
